US06403779B1
N6-Benzoyl-2′-O-(methoxyethyl)-adenosine
5′-O-t-Butyldiphenylsilyl-2′-O-(methoxyethyl)adenosine is treated with TBAF as per the procedure of Example 8 and subsequently treated with benzoyl chloride as per the procedure of Example 4 to give the title compound.

reactant | 5′-O-t-Butyldiphenylsilyl-2′-O-(methoxyethyl)adenosine | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)OCCOC)O | C29H37N5O5Si
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | N6-Benzoyl-2′-O-(methoxyethyl)-adenosine | C(C1=CC=CC=C1)(=O)NC=1C=2N=CN([C@H]3[C@H](OCCOC)[C@H](O)[C@@H](CO)O3)C2N=CN1 | C20H23N5O6
